US07179824B2
Step E: Preparation of 1-(3-chloro-2-pyridinyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid
Potassium hydroxide (0.5 g, 85%, 2.28 mmol) in water (1 mL) was added to ethyl 1-(3-chloro-2-pyridinyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxylate (i.e. the product of Step D) (0.66 g, 2.07 mmol) in ethanol (3 mL). After about 30 minutes, the solvent was removed under reduced pressure, and the mixture was dissolved in water (40 mL). The solution was washed with ethyl acetate (20 mL). The aqueous layer was acidified with concentrated hydrochloric acid and was extracted with ethyl acetate (3×20 mL). The combined extracts were dried and evaporated to give the product as a solid (0.53 g, 93% yield), m.p. 178–179° C. (after crystallization from hexanes-ethyl acetate).

reactant | Potassium hydroxide | 2.28 mmol, 0.5 g | [OH-].[K+]
reactant | ethyl 1-(3-chloro-2-pyridinyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OCC)C(F)(F)F | C12H9ClF3N3O2
solvent | water | 1 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(3-chloro-2-pyridinyl)-3-(trifluoromethyl)-1H-pyrazole-5-carboxylic acid | 0.53 g, 93% yield | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(F)(F)F | C10H5ClF3N3O2
